US08871790B2
Compound 348.4. 5-Amino-6-methylnicotinic acid
Into a round-bottom flask, was placed a solution of methyl 5-amino-6-methylnicotinate (5.00 g, 30.1 mmol, 1.00 equiv) and sodium hydroxide (20 g) in MeOH/H2O (80/200 mL). The resulting solution was heated at reflux overnight. After cooling to ambient temperature, the methanol was removed under reduced pressure. The pH of the remaining aqueous phase was adjusted to 4 with aqueous hydrogen chloride (2 M). The resulting mixture was then concentrated under reduced pressure to yield 5.00 g (crude) of the title compound as a yellow solid.

reactant | methyl 5-amino-6-methylnicotinate | 30.1 mmol, 5.00 g, 1.00 equiv | NC=1C(=NC=C(C(=O)OC)C1)C | C8H10N2O2
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | MeOH H2O | 200 mL | CO.O
product | 5-Amino-6-methylnicotinic acid | NC=1C(=NC=C(C(=O)O)C1)C | C7H8N2O2
